US06759554B2
Copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (636 mg, 3.00 mmol), benzylamine (131 μL, 1.20 mmol), 2-iodobenzoic acid (248 mg, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL) were used and heated at 80° C. for 18 hours. The above workup procedure was followed and gave 2-(N-benzyl)aminobenzoic acid (161 mg, 71% isolated yield) as a light yellow solid.

reactant | K3PO4 | 3.00 mmol, 636 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-iodobenzoic acid | 1.00 mmol, 248 mg | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | Copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 2-(N-benzyl)aminobenzoic acid | 161 mg, 71% | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO2
